US05053426
N-(4-Oxo-12(Z)-eicosenyl)acetamide, 39
A 0.5 g portion of N-(4-hydroxy-12(Z)-eicosenyl)-acetamide was stirred with 0.44 g of pyridinium chlorochromate in 15 ml of dichloromethane for 2 hours. This mixture was poured into 50 ml of ether and filtered through hydrous magnesium silicate. The filtrate was evaporated giving 0.24 g of the desired product as a pale yellow solid, mp 51-52° C.

reactant | N-(4-hydroxy-12(Z)-eicosenyl)-acetamide | OC(CCCNC(C)=O)CCCCCCC\C=C/CCCCCCC | C22H43NO2
reactant | pyridinium chlorochromate | 0.44 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(4-Oxo-12(Z)-eicosenyl)acetamide | 0.24 g | O=C(CCCNC(C)=O)CCCCCCC\C=C/CCCCCCC | C22H41NO2
